US05840751
5,6-Dihydro-4-hydroxy-6-phenyl-6-pyridin-4-yl-2H-pyran-2-one (±)
The title compound was prepared as described in General Method 1 using 90 mmol of ethyl acetoacetate, 99 mmol of NaH 60% dispersion in oil, 95 mmol of 1.6M n-butyl lithium in hexane and 90 mmol of 4-benzoylpyridine and 250 mL of tetrahydrofuran. The reaction mixture was acidified with acetic acid and the crude solid was washed with ice water (m.p. 148°-150° C).

reactant | ethyl acetoacetate | 90 mmol | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | NaH | 99 mmol | [H-].[Na+]
reactant | n-butyl lithium | 95 mmol, 1.6M | C(CCC)[Li]
reactant | 4-benzoylpyridine | 90 mmol | C(C1=CC=CC=C1)(=O)C1=CC=NC=C1 | C12H9NO
solvent | hexane | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 5,6-Dihydro-4-hydroxy-6-phenyl-6-pyridin-4-yl-2H-pyran-2-one | OC1=CC(OC(C1)(C1=CC=NC=C1)C1=CC=CC=C1)=O | C16H13NO3
